US06048864
4-Amino-6-cyclobutylmethyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline
The title compound was prepared from 4-amino-6-hydroxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline and iodomethyl cyclobutane [Bailey et al J Org Chem, 60, 297-300 (1995)] following a similar procedure to that described in Example 2(b), and was obtained as a solid (14%). Rf 0.40 (0.880 aqueous ammonia:methanol:dichloromethane 1:7:92, v/v). MS m/z 471 (MH)+. Found: C, 59.35; H, 7.12; N, 17.44; C24H34N6O4 0.15CH2Cl2 0.15 H2O, requires C, 59.6 H, 7.18; N, 17.28%.

reactant | 4-amino-6-hydroxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline | NC1=NC(=NC2=CC(=C(C=C12)O)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C19H26N6O4
reactant | iodomethyl cyclobutane | ICC1CCC1 | C5H9I
product | 4-Amino-6-cyclobutylmethyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OCC1CCC1)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C24H34N6O4
